US05438052
3-Amino-5-methyl-1H-s-triazole (112 mg) and 320 mg of dimethyl 2-oxo-succinate are dissolved in 5 ml of glacial acetic acid. After boiling under reflux for 22 hours the solvent is distilled off in a vacuum. The residue is suspended in warm methanol. After cooling the product is filtered off and washed several times with methanol. After drying in a high vacuum there are obtained 73 mg of methyl 7-hydroxy-2-methyl-s-triazolo[1,5-a]pyrimidine-5-carboxylate as a beige powder, m.p.>220° C.

reactant | 3-Amino-5-methyl-1H-s-triazole | 112 mg | NC1=NNC(=N1)C | C3H6N4
reactant | dimethyl 2-oxo-succinate | 320 mg | O=C(C(=O)OC)CC(=O)OC | C6H8O5
solvent | acetic acid | 5 ml | C(C)(=O)O | C2H4O2
product | methyl 7-hydroxy-2-methyl-s-triazolo[1,5-a]pyrimidine-5-carboxylate | 73 mg | OC1=CC(=NC=2N1N=C(N2)C)C(=O)OC | C8H8N4O3
